US05569655
To a solution of 3-bromopyridine (9.84 g,0.062 mol) in 300 ml of ether cooled to -78° C. was added n-butyllithium (1.6M, 41 ml, 0.066 mol) and stirred for 30 min. N-Methyl,N-methoxy-urethane (3.76 g, 0.028 mol) in 20 ml of ether was added in 10 min, the mixture was stirred (-78° C.) for 1 h, allowed to warm to room temperature and stirred for 2 h. The reaction mixture was quenched with 6N HCl (100 ml) and stirred. The aqueous layer was basified with 10% NaOH solution, extracted with ethyl acetate (2×) and methylene dichloride. The organic layer was dried over sodium sulfate, concentrated in vacuo, and the residue was purified by chromatography on silica (ethyl acetate, 10% methanol/ethyl acetate) to afford 1,7 g (33%) of di-(3-pyridyl)ketone.

reactant | 3-bromopyridine | 0.062 mol, 9.84 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | 0.066 mol, 1.6M, 41 ml | C(CCC)[Li]
reactant | N-Methyl,N-methoxy-urethane | 0.028 mol, 3.76 g | CN(C(=O)OCC)OC | C5H11NO3
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
product | di-(3-pyridyl)ketone | 1,7 g, 33% | N1=CC(=CC=C1)C(=O)C=1C=NC=CC1 | C11H8N2O
